US09382188B2
F) ethyl 3-(3-(((2-(2-cyano-2-methylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate
To a solution of 3-(2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)-2,2-dimethylpropanenitrile (136 mg), ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate (136 mg) and tributylphosphine (0.22 mL) in toluene (5.0 mL) was added 1,1′-(azodicarbonyl)dipiperidine (225 mg), and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (203 mg) as a colorless oil.

reactant | 3-(2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)-2,2-dimethylpropanenitrile | 136 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)CC(C#N)(C)C | C18H18FNO2
reactant | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 136 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
reactant | tributylphosphine | 0.22 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 225 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | ethyl 3-(3-(((2-(2-cyano-2-methylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate | 203 mg | C(#N)C(CC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)C1CC1)C1=C(C=CC(=C1)OC)F)(C)C | C33H36FNO4
